US07612114B2
(S)-6-{2-{[4-(2-Amino-2-methylpropoxy)benzyl]ethylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-(2-ethylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) and tert-butyl[2-(4-formylphenoxy)-1,1-dimethylethyl]carbamate (125 mg) according to an analogous synthetic method to Example 238 and purified by LC-MS, the title compound (20 mg) was obtained.

reactant | pivalic acid (S)-6-(2-ethylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | C(C)NC1=C(C=CC=C1)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C23H29NO2
reactant | tert-butyl[2-(4-formylphenoxy)-1,1-dimethylethyl]carbamate | 125 mg | C(C)(C)(C)OC(NC(COC1=CC=C(C=C1)C=O)(C)C)=O | C16H23NO4
product | (S)-6-{2-{[4-(2-Amino-2-methylpropoxy)benzyl]ethylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 20 mg | NC(COC1=CC=C(CCCNC2=C(C=CC=C2)[C@@H]2CC=3C=CC(=CC3CC2)O)C=C1)(C)C | C29H36N2O2
